US04857542
Into 310 ml of methanol, 500 mg of 3-methyl-1-(4-nitrophenyl)-2-pyrazolin-5-one was dissolved, 50 mg of 5% Pd/C and 0.6 ml of conc. hydrochloric acid were added to the solution, and the mixture was stirred under hydrogen atmosphere to consume the calculated amount of hydrogen. Then, the catalyst was filtered off and the filtrate was concentrated. The residue was recrystallized from methanol-ethyl ether to give 409 mg of 1-(4-aminophenyl)-3-methyl-2-pyrazolin-5-one dihydrochloride (Compound No. 50) as pale brown crystals.

reactant | 3-methyl-1-(4-nitrophenyl)-2-pyrazolin-5-one | 500 mg | CC1=NN(C(C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O3
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | methanol | 310 ml | CO | CH4O
product | 1-(4-aminophenyl)-3-methyl-2-pyrazolin-5-one dihydrochloride | 409 mg, Yield 68% | Cl.Cl.NC1=CC=C(C=C1)N1N=C(CC1=O)C | InChI=1S/C10H11N3O.2ClH/c1-7-6-10(14)13(12-7)9-4-2-8(11)3-5-9;;/h2-5H,6,11H2,1H3;2*1H
